US05409930
To a boiling solution of 2-thiophenecarboxaldehyde (1.22 ml), pyruvic acid (0.904 ml) and 50 ml absolute EtOH is added dropwise a solution of 3,4-dimethoxyaniline (2.00 g) in 100 ml EtOH. The mixture is refluxed for approximately 4 hours, then stored at room temperature overnight. The greenish-yellow precipitate is collected by filtration, washed with fresh EtOH then with ether and allowed to air dry to obtain 2-(thien-2-yl)-4-carboxy-6,7-dimethoxyquinoline (m.p. 260°-263° C.).

reactant | 2-thiophenecarboxaldehyde | 1.22 ml | S1C(=CC=C1)C=O | C5H4OS
reactant | pyruvic acid | 0.904 ml | C(C(=O)C)(=O)O | C3H4O3
reactant | 3,4-dimethoxyaniline | 2.00 g | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | EtOH | 100 ml | CCO | C2H6O
solvent | EtOH | 50 ml | CCO | C2H6O
product | 2-(thien-2-yl)-4-carboxy-6,7-dimethoxyquinoline | S1C(=CC=C1)C1=NC2=CC(=C(C=C2C(=C1)C(=O)O)OC)OC | C16H13NO4S
